US07074794B2
Piperazine (13.2 g) was melted by heating at 140° C., and 4-chloroquinoline (2.5 g) was added thereto. The mixture was stirred at 140° C. for 30 min. The reaction mixture was added to iced water, and the mixture was extracted with chloroform to give 1-(4-quinolyl)piperazine (3.45 g) as a pale-yellow oil.

reactant | Piperazine | 13.2 g | N1CCNCC1 | C4H10N2
reactant | 4-chloroquinoline | 2.5 g | ClC1=CC=NC2=CC=CC=C12 | C9H6ClN
solvent | water | O | H2O
product | 1-(4-quinolyl)piperazine | 3.45 g | N1=CC=C(C2=CC=CC=C12)N1CCNCC1 | C13H15N3
